Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:11]([H:12])([H:13])[H:14],3.5724495009099995
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]#[C:10][H:11],4.21201016911
[C:3]([H:4])=[C:5]([O:6][H:7])[O:8][C:9]([H:10])[H:11].[H:1][C:2]>>[H:1][C:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[O:8][C:9]([H:10])[H:11],-6.64898897488
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.71860266733
[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-1.93582402732
[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5][H:6]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],-5.01185821754
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]=[O:7]>>[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]=[O:7],-0.288287216229
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][H:4],1.24419814552
[C:1]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11].[C:2]#[C:3]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-4.6313931494
[C:1]#[C:2][C:3]([H:4])=[O:5].[H:6]>>[C:1]#[C:2][C:3]([H:4])[O:5][H:6],-3.855019329080002
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[C:14]([H:15])([H:16])[H:17],4.21250202069
[C:1]=[C:2]([C:3]([H:4])[C:5]#[C:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6].[C:7]([H:8])([H:9])[H:10],3.72956914728
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][H:4],5.25367302296
[C:2][C:3]#[C:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1]>>[H:1][C:2]#[C:3][C:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.5041075688
[C:12]=[C:13]([H:14])[H:15].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],-3.59908171567
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:7],1.98859186131
[O:1][C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1],4.07351234364
[H:13].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.612703451530001
[C:1]#[C:2][C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9]>>[C:1][C:2]#[C:3][C:5]([O:6][H:7])[O:8][H:9].[H:4],4.02378151953
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8]>>[H:1][O:2][C:3]#[C:4][O:5][C:6][H:7].[H:8],4.2423503342
[O:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11].[O:3][H:4],6.04122428738
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],4.2985177869
[C:7]([H:8])([H:9])=[C:10][H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:12]([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.420812440390001
[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]([H:3])[O:4][C:5][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4]/[C:5](=[C:6](/[H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.78997384449
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])=[C:8][O:9][H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],0.4089920849499999
[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.98384956629
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:9][H:10])=[C:11]([H:12])[H:13].[H:8],1.43827059151
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:13].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:14]([H:15])[H:16],4.82264311861
[C:1]#[C:2][C:3]([O:4])([H:5])[H:6]>>[C:1]#[C:2][C:3](=[O:4])[H:5].[H:6],0.513395924697
